US06919315B1
At 0° C., N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (85 mg, 0.44 mmol) was added to a solution of (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid (113 mg, 0.44 mmol) and 1-hydroxy-7-azabenzotriazole (60 mg, 0.44 mmol) in dichloromethane (5 ml) and N,N-dimethylformamide (5 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of (2R)-N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methyl-2-(methylamino)-(2-naphthyl)propionamide (228 mg, 0.44 mmol) in dichloromethane (10 ml) and ethyldiisopropylamine (0.07 ml, 0.44 mmol) were added successively. The reaction mixture was stirred for 16 h, while i was warming up to room temperature. It was diluted with ethyl acetate (70 ml) and washed with a saturated aqueous solution of sodium hydrogen carbonate (70 ml). The aqueous phase was extracted with ethyl acetate (3×50 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 314 mg of (1((2E)-3-[N-((1R)-1-{N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]allyl}cyclobutyl)carbamic acid tert-butyl ester.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.44 mmol, 85 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid | 0.44 mmol, 113 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.44 mmol, 60 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | (2R)-N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methyl-2-(methylamino)-(2-naphthyl)propionamide | 0.44 mmol, 228 mg | C(C1=CC=CC=C1)[C@H](C(=O)N1C[C@@H](CCC1)CN(C)C)N(C([C@](C)(NC)C1=CC2=CC=CC=C2C=C1)=O)C | C32H42N4O2
reactant | ethyldiisopropylamine | 0.44 mmol, 0.07 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | (1((2E)-3-[N-((1R)-1-{N-[(1R)-1-benzyl-2-((3S)-3-((dimethylamino)methyl)piperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamoyl]allyl}cyclobutyl)carbamic acid tert-butyl ester | 314 mg | C(C)(C)(C)OC(NC1(CCC1)C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](C(=O)N1C[C@@H](CCC1)CN(C)C)CC1=CC=CC=C1)=O)=O)=O | C45H61N5O5
